US07635701B2
A solution of N-methyl-N-(tetrahydro-pyran-4-ylmethyl)-carbamic acid tert-butyl ester (740 mg) in 4N hydrochloric acid in 1,4-dioxan (10 ml, ex Aldrich) was stirred at room temperature for 1 h. The dioxan was removed under reduced pressure and the residue triturated with ether. The solid was filtered onto a sinter, washed with ether and dried, to afford N-methyl-N-(tetrahydro-pyran-4-ylmethyl)-amine hydrochloride (460 mg).

reactant | N-methyl-N-(tetrahydro-pyran-4-ylmethyl)-carbamic acid tert-butyl ester | 740 mg | C(C)(C)(C)OC(N(CC1CCOCC1)C)=O | C12H23NO3
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | N-methyl-N-(tetrahydro-pyran-4-ylmethyl)-amine hydrochloride | 460 mg | Cl.CNCC1CCOCC1 | InChI=1S/C7H15NO.ClH/c1-8-6-7-2-4-9-5-3-7;/h7-8H,2-6H2,1H3;1H
